US05466663
In 20 ml of tetrahydrofuran, 1.85 g of 2-(5-carboxymethylthio-4-chloro -2-fluorophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione was dissolved, to which 0.97 g of N,N'-carbonyldiimidazole was added and the resultant mixture was stirred for 30 minutes at room temperature. To the resultant mixture, 0.53 g of N,N-diethylhydroxylamine was added, and the resultant mixture was stirred for 2 hours at room temperature. After completion of the reaction, the reaction mixture was poured into a saturated saline solution and extracted with ethyl acetate. The extract was washed with a saturated saline solution, dried with anhydrous magnesium sulfate, and evaporated to remove the solvent under reduced pressure. The residue was purified by silica gel chromatography (eluent; hexane:ethyl acetate=5:1 to 3:1), which afforded 1.60 g of 2-[5-(N,N-diethylaminooxycarbonylmethylthio)-4-chloro-2-fluorophenyl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione.

reactant | 2-(5-carboxymethylthio-4-chloro -2-fluorophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 1.85 g | C(=O)(O)CSC=1C(=CC(=C(C1)N1C(C=2CCCCC2C1=O)=O)F)Cl | C16H13ClFNO4S
reactant | N,N-diethylhydroxylamine | 0.53 g | C(C)N(O)CC | C4H11NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[5-(N,N-diethylaminooxycarbonylmethylthio)-4-chloro-2-fluorophenyl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 1.60 g | C(C)N(CC)OC(=O)CSC=1C(=CC(=C(C1)N1C(C=2CCCCC2C1=O)=O)F)Cl | C20H22ClFN2O4S
